US08026257B2
(±)-7-(1-((1-Methyl-4-phenylpiperidin-4-yl)methoxy)ethyl)-5-(trifluoromethyl)-1H-indazole.
To a solution of (±)-7-(1-((4-phenylpiperidin-4-yl)methoxy)ethyl)-5-(trifluoromethyl)-1H-indazole (35 mg, 0.087 mmol) and sodium cyanoborohydride (5.5 mg, 0.087 mmol) in acetonitrile (1 mL) at room temperature was added formalin (25 μL). To this was added 1 drop of acetic acid. After 5 min, a second drop of acetic acid was added and the reaction stirred at room temperature for 15 min. The reaction was concentrated and loaded onto a strong cation exchange cartridge in methanol. The cartridge was washed with several volumes of methanol which were discarded. The product was eluted with 2 M ammonia in methanol and concentrated to give 21 mg (58%). 1H-NMR (CDCl3, 500 MHz) δ 9.78 (bs, 1H), 8.02 (s, 1H), 7.90 (s, 1H), 7.28-7.49 (m, 5H), 7.21 (s, 1H), 4.62 (q, J=6.7 Hz, 1H), 3.48 (s, 3H), 3.45-3.51 (m, 3H), 3.31 (d, J=8.9 Hz, 1H), 2.62 (m, 2H), 2.39 (m, 1H), 2.12-2.31 (m, 7H), 2.06 (m, 1H), 1.95 (m, 1H), 1.44 (d, J=6.7 Hz, 3H); 13C-NMR (CDCl3, 126 MHz) δ 138.1, 135.2, 128.9, 127.5, 127.1, 126.9, 124.7 (q, J=272 Hz), 123.3, 119.8 (q, J=2.9 Hz), 118.1 (q, J=3.8 Hz), 79.0 (br), 78.4, 52.0, 51.8, 50.8, 46.1, 40.7, 32.5, 32.3, 22.2. Mass spec.: 418.18 (MH)+. Accurate mass spec.: m/z 418.2101 [MH]+, Δ=1.2 ppm.

reactant | (±)-7-(1-((4-phenylpiperidin-4-yl)methoxy)ethyl)-5-(trifluoromethyl)-1H-indazole | 0.087 mmol, 35 mg | C1(=CC=CC=C1)C1(CCNCC1)COC(C)C=1C=C(C=C2C=NNC12)C(F)(F)F | C22H24F3N3O
reactant | sodium cyanoborohydride | 0.087 mmol, 5.5 mg | C(#N)[BH3-].[Na+]
reactant | formalin | 25 μL | C=O | CH2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
catalyst | acetic acid | 1 drop | C(C)(=O)O | C2H4O2
product | (±)-7-(1-((1-Methyl-4-phenylpiperidin-4-yl)methoxy)ethyl)-5-(trifluoromethyl)-1H-indazole | CN1CCC(CC1)(C1=CC=CC=C1)COC(C)C=1C=C(C=C2C=NNC12)C(F)(F)F | C23H26F3N3O
